// Generated for: spectre
// Generated on: Nov 30 12:09:47 2018
// Design library name: ECE_6240_Digital
// Design cell name: hw3_2_dynamic_cmos_4_tb
// Design view name: schematic
simulator lang=spectre
global 0 gnda! vdd!
parameters p5vonly=0
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami06N.m"
include "/apps/design_kits/ncsu-cdk-1.6.0.beta/models/spectre/nom/ami06P.m"

// Library name: ECE_6240_Digital
// Cell name: hw3_2_dynamic_cmos_4
// View name: schematic
subckt hw3_2_dynamic_cmos_4 A B C Clk D G
    N4 (net9 Clk gnda! gnda!) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N3 (G D net9 net9) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    N2 (G C net9 net9) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    N1 (G B net9 net9) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    N0 (G A net9 net9) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    P0 (G Clk vdd! vdd!) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
ends hw3_2_dynamic_cmos_4
// End of subcircuit definition.

// Library name: ECE_6240_Digital
// Cell name: hw3_2_dynamic_cmos_4_tb
// View name: schematic
V0 (vdd! 0) vsource type=dc dc=5
V5 (D 0) vsource type=pulse dc=5 val0=0 val1=5 period=160u delay=0 \
        rise=500f fall=500f width=80u
V4 (Clk 0) vsource type=pulse dc=5 val0=0 val1=5 period=320u delay=0 \
        rise=500f fall=500f width=160u
V3 (C 0) vsource type=pulse dc=5 val0=0 val1=5 period=80u delay=0 \
        rise=500f fall=500f width=40u
V2 (B 0) vsource type=pulse dc=5 val0=0 val1=5 period=40u delay=0 \
        rise=500f fall=500f width=20u
V1 (A 0) vsource type=pulse dc=5 val0=0 val1=5 period=20u delay=0 \
        rise=500f fall=500f width=10u
C0 (G 0) capacitor c=4p m=1
I13 (A B C Clk D G) hw3_2_dynamic_cmos_4
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=25 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=500u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
