// Generated for: spectre
// Generated on: Feb 28 21:45:58 2018
// Design library name: ajgrosze_scratch
// Design cell name: nmos_3stack_sim
// Design view name: schematic
simulator lang=spectre
global 0 vss!
parameters vga=0 vgb=0 vgc=0
include "/misc/scratch/ajgrosze/lpr/schematics/models/32nm_LP.pm"

// Library name: ajgrosze_scratch
// Cell name: nmos_3stack_sim
// View name: schematic
Ma (net011 net06 net04 vss!) nmos w=320n l=32n
Mb (net07 net03 net011 vss!) nmos w=320n l=32n
Mc (vss! net010 net07 vss!) nmos w=320n l=32n
Vc (net010 vss!) vsource dc=vgc type=dc
Vb (net03 vss!) vsource dc=vgb type=dc
V0 (net04 vss!) vsource dc=1.2 type=dc
Va (net06 vss!) vsource dc=vga type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save Mc:d 
saveOptions options save=allpub
