// Generated for: spectre
// Generated on: Oct 27 16:28:01 2010
// Design library name: sigmadelta_local
// Design cell name: test_i_diff_i_diff
// Design view name: schematic
simulator lang=spectre
global 0
include "/home/ic5.1/tools/dfII/samples/artist/ahdlLib/quantity.spectre"
parameters gb=0.9738 ga=0.9986 w2=10e-6 w1=15e-6 Vsupp=5 voutdc=2.25 \
    vout=0 v_bpol=3 r=1510 per_tr=1e-8 l2=0.35e-6 l1=0.35e-6 Isin=0.001 \
    Imin=0 Imax=0 iindc=0.0001 Iin=0 i2=1.7e-3 i1=3.9e-3 g4=0 g3=0 g2=-1 \
    g1=1 ar=9.6
include "/home/AMS_3.70/spectre/s35/mcparams.scs"
include "/home/AMS_3.70/spectre/s35/cmos53.scs" section=cmostm
include "/home/AMS_3.70/spectre/s35/res.scs" section=restm
include "/home/AMS_3.70/spectre/s35/cap.scs" section=captm
include "/home/AMS_3.70/spectre/s35/vbic.scs" section=biptm
include "/home/AMS_3.70/spectre/s35/ind.scs" section=indtm

// Library name: sigmadelta_local
// Cell name: simect_i_diff_i_diff_sch
// View name: schematic
subckt simect_i_diff_i_diff_sch Iin\+ Iin\- Iout\+ Iout\- Vsupp gnd
    I0 (Vsupp net35) isource dc=i1-i2 type=dc
    I1 (Vsupp net85) isource dc=i1-i2 type=dc
    I2 (Iin\+ gnd) isource dc=i1 type=dc
    I3 (Iin\- gnd) isource dc=i1 type=dc
    MP12 (Iout\+ net86 Vsupp Vsupp) modp w=w1*ga*(2-gb) l=l1 \
        as=1.60225e-11 ad=1.60225e-11 ps=20.55u pd=20.55u nrd=0.0265252 \
        nrs=0.0265252 ng=1
    MP11 (net85 net85 Vsupp Vsupp) modp w=2*w1 l=l1 as=2.975e-11 \
        ad=2.975e-11 ps=36.7u pd=36.7u nrd=0.0142857 nrs=0.0142857 ng=1
    MP1 (net35 net35 Vsupp Vsupp) modp w=2*w1 l=l1 as=2.975e-11 \
        ad=2.975e-11 ps=36.7u pd=36.7u nrd=0.0142857 nrs=0.0142857 ng=1
    MP10 (net59 net85 Vsupp Vsupp) modp w=w1 l=l1 as=1.4875e-11 \
        ad=1.4875e-11 ps=19.2u pd=19.2u nrd=0.0285714 nrs=0.0285714 ng=1
    MP0 (Iout\- net88 Vsupp Vsupp) modp w=w1*ga*(2-gb) l=l1 as=1.60225e-11 \
        ad=1.60225e-11 ps=20.55u pd=20.55u nrd=0.0265252 nrs=0.0265252 \
        ng=1
    MP9 (net76 net35 Vsupp Vsupp) modp w=w1 l=l1 as=1.4875e-11 \
        ad=1.4875e-11 ps=19.2u pd=19.2u nrd=0.0285714 nrs=0.0285714 ng=1
    Q0 (net35 net79 Iin\+ gnd) npn143h5 area=ar m=1
    Q1 (net85 net49 Iin\- gnd) npn143h5 area=ar m=1
    MN8 (Iout\- net59 gnd gnd) modn w=w2*ga*gb l=l2 as=9.3075e-12 \
        ad=9.3075e-12 ps=12.65u pd=12.65u nrd=0.0456621 nrs=0.0456621 ng=1
    MN7 (net59 net59 gnd gnd) modn w=w2 l=l2 as=8.925e-12 ad=8.925e-12 \
        ps=12.2u pd=12.2u nrd=0.047619 nrs=0.047619 ng=1
    MN2 (Iout\+ net76 gnd gnd) modn w=w2*ga*gb l=l2 as=9.3075e-12 \
        ad=9.3075e-12 ps=12.65u pd=12.65u nrd=0.0456621 nrs=0.0456621 ng=1
    MN6 (net76 net76 gnd gnd) modn w=w2 l=l2 as=8.925e-12 ad=8.925e-12 \
        ps=12.2u pd=12.2u nrd=0.047619 nrs=0.047619 ng=1
    V2 (net79 gnd) vsource dc=v_bpol type=dc
    V7 (net49 gnd) vsource dc=v_bpol type=dc
    R1 (net85 net86) resistor r=r
    R0 (net88 net35) resistor r=r
ends simect_i_diff_i_diff_sch
// End of subcircuit definition.

// Library name: sigmadelta_local
// Cell name: test_i_diff_i_diff
// View name: schematic
V4 (net025 0) vsource type=sine ampl=Isin freq=1/per_tr
I39 (Vin1 Vin2 Vout1 Vout2 net0106 0) simect_i_diff_i_diff_sch
V3 (net036 net025) vsource dc=Iin mag=1 type=pulse val0=Imin val1=Imax \
        period=per_tr width=per_tr/2
G0 (0 net034 net036 0) vccs gm=g1
G1 (0 net028 net036 0) vccs gm=g2
I0 (0 net011) isource dc=iindc type=dc
E2 (Vout2 net055 net012 0) vcvs gain=g4
E1 (Vout1 net055 net012 0) vcvs gain=g3
F5 (0 net028) cccs gain=1 probe=V14
V1 (Vin1 net034) vsource dc=0 type=dc
V2 (Vin2 net028) vsource dc=0 type=dc
V9 (net055 0) vsource dc=voutdc type=dc
V10 (net012 0) vsource dc=vout mag=1 type=dc
V0 (net0106 0) vsource dc=Vsupp type=dc
V14 (net034 net011) vsource dc=0 type=dc
simulatorOptions options reltol=100e-6 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 homotopy=all limit=delta scalem=1.0 scale=1.0 \
    compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 digits=5 \
    cols=80 pivrel=1e-3 sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=100n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
save E2:p E1:p V2:p V1:p 
saveOptions options save=allpub
