// Generated for: spectre
// Generated on: Oct 27 12:12:37 2010
// Design library name: sigmadelta_local
// Design cell name: test_v_diff_i_uni
// Design view name: schematic
simulator lang=spectre
global 0
include "/home/ic5.1/tools/dfII/samples/artist/ahdlLib/quantity.spectre"
parameters w2=1e-5 w1=1e-5 Vsupp=3.3 Vsin=0 voutdc=2 vout=0 Vmin=-0.1 \
    Vmax=0.1 Vindc=1 Vin=0 per_tr=1e-8 l2=5e-7 l1=5e-7 I0=0.0002 g3=0 \
    g2=-1 g1=1
include "/home/AMS_3.70/spectre/s35/mcparams.scs"
include "/home/AMS_3.70/spectre/s35/cmos53.scs" section=cmostm
include "/home/AMS_3.70/spectre/s35/res.scs" section=restm
include "/home/AMS_3.70/spectre/s35/cap.scs" section=captm
include "/home/AMS_3.70/spectre/s35/vbic.scs" section=biptm
include "/home/AMS_3.70/spectre/s35/ind.scs" section=indtm

// Library name: sigmadelta_local
// Cell name: simect_v_diff_i_uni_sch
// View name: schematic
subckt simect_v_diff_i_uni_sch Iout Vin\+ Vin\- Vsupp gnd
    MN1 (Iout Vin\- net20 gnd) modn w=w1 l=l1 as=1.1e-11 ad=1.1e-11 \
        ps=12.2u pd=12.2u nrd=0.06 nrs=0.06 ng=1
    MN0 (net19 Vin\+ net20 gnd) modn w=w1 l=l1 as=1.1e-11 ad=1.1e-11 \
        ps=12.2u pd=12.2u nrd=0.06 nrs=0.06 ng=1
    I0 (net20 gnd) isource dc=I0 type=dc
    MN2 (net19 net19 Vsupp Vsupp) modp w=w2 l=l2 as=1.1e-11 ad=1.1e-11 \
        ps=12.2u pd=12.2u nrd=0.06 nrs=0.06 ng=1
    MP0 (Iout net19 Vsupp Vsupp) modp w=w2 l=l2 as=1.1e-11 ad=1.1e-11 \
        ps=12.2u pd=12.2u nrd=0.06 nrs=0.06 ng=1
ends simect_v_diff_i_uni_sch
// End of subcircuit definition.

// Library name: sigmadelta_local
// Cell name: test_v_diff_i_uni
// View name: schematic
I44 (Vout Vin1 Vin2 net0106 0) simect_v_diff_i_uni_sch
V3 (net019 0) vsource type=sine ampl=Vsin freq=1/per_tr
V1 (net026 net019) vsource dc=Vin mag=1 type=pulse val0=Vmin val1=Vmax \
        period=per_tr width=per_tr/2
E1 (Vin2 net028 net026 0) vcvs gain=g2
E0 (Vin1 net028 net026 0) vcvs gain=g1
E2 (Vout net043 net029 0) vcvs gain=g3
V9 (net043 0) vsource dc=voutdc type=dc
V10 (net029 0) vsource dc=vout mag=1 type=dc
V5 (net028 0) vsource dc=Vindc type=dc
V0 (net0106 0) vsource dc=Vsupp type=dc
simulatorOptions options reltol=100e-6 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 homotopy=all limit=delta scalem=1.0 scale=1.0 \
    compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 digits=5 \
    cols=80 pivrel=1e-3 sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=100n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
save E2:p E1:p E0:p 
saveOptions options save=allpub
