// Generated for: spectre
// Generated on: Mar  8 23:10:11 2023
// Design library name: Design
// Design cell name: 4bitAdder_simulation
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/home/ugrads/h/hbritton/cadence/models/spectre/tsmc20N.m"
include "/home/ugrads/h/hbritton/cadence/models/spectre/tsmc20P.m"

// Library name: Design
// Cell name: inverter
// View name: schematic
subckt inverter GND VDD in out
    P0 (out in VDD VDD) tsmc20P w=900n l=200n as=4.5e-13 ad=4.5e-13 \
        ps=2.8u pd=2.8u m=1 region=sat
    N0 (out in GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
ends inverter
// End of subcircuit definition.

// Library name: Design
// Cell name: XOR
// View name: schematic
subckt XOR A B GND VDD out
    P3 (out A net29 VDD) tsmc20P w=2u l=200n as=1e-12 ad=1e-12 ps=5u pd=5u \
        m=1 region=sat
    P2 (net29 net13 VDD VDD) tsmc20P w=2u l=200n as=1e-12 ad=1e-12 ps=5u \
        pd=5u m=1 region=sat
    P1 (out net22 net30 VDD) tsmc20P w=2u l=200n as=1e-12 ad=1e-12 ps=5u \
        pd=5u m=1 region=sat
    P0 (net30 B VDD VDD) tsmc20P w=2u l=200n as=1e-12 ad=1e-12 ps=5u pd=5u \
        m=1 region=sat
    N3 (net27 B GND GND) tsmc20N w=500n l=200n as=2.5e-13 ad=2.5e-13 ps=2u \
        pd=2u m=1 region=sat
    N2 (out A net27 GND) tsmc20N w=500n l=200n as=2.5e-13 ad=2.5e-13 ps=2u \
        pd=2u m=1 region=sat
    N1 (net28 net13 GND GND) tsmc20N w=500n l=200n as=2.5e-13 ad=2.5e-13 \
        ps=2u pd=2u m=1 region=sat
    N0 (out net22 net28 GND) tsmc20N w=500n l=200n as=2.5e-13 ad=2.5e-13 \
        ps=2u pd=2u m=1 region=sat
    I1 (GND VDD B net13) inverter
    I0 (GND VDD A net22) inverter
ends XOR
// End of subcircuit definition.

// Library name: Design
// Cell name: NAND
// View name: schematic
subckt NAND A B GND VDD Y
    N1 (net14 B GND GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 \
        ps=1.6u pd=1.6u m=1 region=sat
    N0 (Y A net14 GND) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 ps=1.6u \
        pd=1.6u m=1 region=sat
    P1 (Y B VDD VDD) tsmc20P w=600n l=200n as=3e-13 ad=3e-13 ps=2.2u \
        pd=2.2u m=1 region=sat
    P0 (Y A VDD VDD) tsmc20P w=600n l=200n as=3e-13 ad=3e-13 ps=2.2u \
        pd=2.2u m=1 region=sat
ends NAND
// End of subcircuit definition.

// Library name: Design
// Cell name: singlebitadder
// View name: schematic
subckt singlebitadder A B C Carry GND Sum VDD
    I1 (net8 C GND VDD Sum) XOR
    I0 (A B GND VDD net8) XOR
    I4 (net14 net18 GND VDD Carry) NAND
    I3 (A B GND VDD net18) NAND
    I2 (net8 C GND VDD net14) NAND
ends singlebitadder
// End of subcircuit definition.

// Library name: Design
// Cell name: 4bitAdder_schematic
// View name: schematic
subckt Design_4bitAdder_schematic_schematic A\<3\> A\<2\> A\<1\> A\<0\> \
        B\<3\> B\<2\> B\<1\> B\<0\> Cin Cout GND Sum\<3\> Sum\<2\> \
        Sum\<1\> Sum\<0\> VDD
    I3 (A\<3\> B\<3\> net12 Cout GND Sum\<3\> VDD) singlebitadder
    I2 (A\<2\> B\<2\> net16 net12 GND Sum\<2\> VDD) singlebitadder
    I1 (A\<1\> B\<1\> net21 net16 GND Sum\<1\> VDD) singlebitadder
    I0 (A\<0\> B\<0\> Cin net21 GND Sum\<0\> VDD) singlebitadder
ends Design_4bitAdder_schematic_schematic
// End of subcircuit definition.

// Library name: Design
// Cell name: 4bitAdder_simulation
// View name: schematic
I0 (A\<3\> A\<2\> A\<1\> A\<0\> B\<3\> B\<2\> B\<1\> B\<0\> Cin Cout 0 \
        Sum\<3\> Sum\<2\> Sum\<1\> Sum\<0\> vdd!) \
        Design_4bitAdder_schematic_schematic
V0 (vdd! 0) vsource type=dc dc=1.8
V13 (A\<3\> 0) vsource type=pulse dc=1.8 val0=0 val1=1.8 period=10n \
        delay=3n rise=100p fall=100p width=5n
V12 (A\<2\> 0) vsource type=pulse dc=1.8 val0=0 val1=1.8 period=10n \
        delay=3n rise=100p fall=100p width=5n
V11 (A\<1\> 0) vsource type=pulse dc=1.8 val0=0 val1=1.8 period=10n \
        delay=3n rise=100p fall=100p width=5n
V10 (A\<0\> 0) vsource type=pulse dc=1.8 val0=0 val1=1.8 period=10n \
        delay=3n rise=100p fall=100p width=5n
V8 (B\<2\> 0) vsource type=pulse dc=1.8 val0=1.8 val1=0 period=10n \
        delay=3n rise=100p fall=100p width=5n
V6 (B\<1\> 0) vsource type=pulse dc=1.8 val0=1.8 val1=0 period=10n \
        delay=3n rise=100p fall=100p width=5n
V9 (B\<3\> 0) vsource type=pulse dc=1.8 val0=1.8 val1=0 period=10n \
        delay=3n rise=100p fall=100p width=5n
V7 (B\<0\> 0) vsource type=pulse dc=1.8 val0=1.8 val1=0 period=10n \
        delay=3n rise=100p fall=100p width=5n
V14 (Cin 0) vsource type=pulse dc=1.8 val0=1.8 val1=0 period=10n delay=3n \
        rise=100p fall=100p width=5n
C4 (Sum\<3\> 0) capacitor c=50f m=1
C3 (Sum\<2\> 0) capacitor c=50f m=1
C2 (Sum\<1\> 0) capacitor c=50f m=1
C1 (Sum\<0\> 0) capacitor c=50f m=1
C0 (Cout 0) capacitor c=50f m=1
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=30n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
